US05470851
4-[α-(3-Pyridyl)benzyl]-1-(2-phthalimidoethyl)piperazine
The title compound was prepared in a yield of 53% in a similar manner to that described in Preparation 1' by reacting N-(2-bromoethyl)phthalimide and 4-[α-(3-pyridyl)benzyl]piperazine.

reactant | N-(2-bromoethyl)phthalimide | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | 4-[α-(3-pyridyl)benzyl]piperazine | N1=CC(=CC=C1)C(C1=CC=CC=C1)N1CCNCC1 | C16H19N3
product | 4-[α-(3-Pyridyl)benzyl]-1-(2-phthalimidoethyl)piperazine | yield of 53% | N1=CC(=CC=C1)C(C1=CC=CC=C1)N1CCN(CC1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C26H26N4O2
